US05259915
2.71 g (10.0 mmol) of 2,6-bis(dimethylaminomethylene)phenyl bromide in 40 ml of hexane, 6.3 ml of n-butyllithium (10.0 mmol; 1.6 mol/l in hexane) and 1.8 g (10.0 mmol) of dimethylindium chloride in 20 ml of hexane are reacted analogously to Example 1 to give [2,6-bis(di-methylaminomethylene)phenyl] dimethylindium, which is obtained in the form of colorless crystals, m.p. 53° C., by cooling a concentrated hexane solution to -30° C.

reactant | 2,6-bis(dimethylaminomethylene)phenyl bromide | 10.0 mmol, 2.71 g | CN(C)C=C1C(C(C=CC1)=CN(C)C)Br | C12H19BrN2
reactant | n-butyllithium | 10.0 mmol, 1.6 mol/l, 6.3 ml | C(CCC)[Li]
reactant | dimethylindium chloride | 10.0 mmol, 1.8 g | [Cl-].C[In+]C
solvent | hexane | 40 ml | CCCCCC | C6H14
solvent | hexane | 20 ml | CCCCCC | C6H14
product | [2,6-bis(di-methylaminomethylene)phenyl] dimethylindium | CN(C)C=C1C(C(C=CC1)=CN(C)C)[In](C)C | InChI=1S/C12H19N2.2CH3.In/c1-13(2)9-11-6-5-7-12(8-11)10-14(3)4;;;/h5-6,8-10H,7H2,1-4H3;2*1H3;
